US07259266B2
To a solution of 6-hydroxy-2,4,5-trimethylbenzaldehyde (2.77 g, 17.1 mmoles) in 50 mL of dry DMF was added anhydrous K2CO3 (5.19 g, 37.6 mmoles), and ethyl 4,4,4-trifluorocrotonate (3.16 g, 18.8 mmoles). The mixture was stirred rapidly under a drying tube at 100° C. for 3 h. After cooling, the mixture was diluted with DMF, filtered, and evaporated. Chromatography of the residue over silica gel using DCM as eluent gave ethyl 5,7,8-trimethyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate, 3.75 g, as an oil.

reactant | 6-hydroxy-2,4,5-trimethylbenzaldehyde | 17.1 mmoles, 2.77 g | OC1=C(C(=CC(=C1C=O)C)C)C | C10H12O2
reactant | K2CO3 | 37.6 mmoles, 5.19 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 4,4,4-trifluorocrotonate | 18.8 mmoles, 3.16 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl 5,7,8-trimethyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | CC1=C2C=C(C(OC2=C(C(=C1)C)C)C(F)(F)F)C(=O)OCC | C16H17F3O3
